US03994941
In the manner given in Example 2, 1-(2-hydroxyethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dioxane is treated with phthalimide, triphenylphosphine and subsequently with diethyl azodicarboxylate to give 1-(2-phthalimidoethyl)-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 1-(2-hydroxyethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | OCCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C18H15ClN4O
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(2-phthalimidoethyl)-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | C1(C=2C(C(N1CCC1=NN=C3N1C1=C(C(=NC3)C3=C(C=CC=C3)Cl)C=CC=C1)=O)=CC=CC2)=O | C26H18ClN5O2
